US08614209B2
3-(Azepane-1-carbonyl)-5-phenyl-thiophene-2-carbonitrile (AA-51)
Azepan-1-yl-(2-bromo-5-phenyl-thiophen-3-yl)-methanone (109 mg, 0.30 mmol) was dissolved in DMF (2 mL). Zinc cyanide (0.30 mmol) and tetrakis(triphenylphosphine) palladium (0) (0.15 mmol) were added and the reaction heated at 100° C. for 5 hours. The reaction mixture was cooled to ambient temperature, quenched with a 1:1 mixture of 5% aqueous sodium thiosulfate and 10% aqueous potassium carbonate. The resulting mixture was extracted with ethyl acetate, and the organic solvent separated and then evaporated. The residue was purified by HPLC, eluting with 50%-90% acetonitrile in water (0.1% formic acid) over 30 minutes. The fractions containing the desired product were concentrated under vacuum and freeze-dried to give the title compound (16 mg). LCMS m/z 311.10 [M+H]+ R.T.=11.43 min (Analytical Method 2). 1H NMR (400 MHz, CHCl3-d): δ 7.60 (m, 2H), 7.5 (m, 3H), 7.2 (s, 1H), 3.75 (t, 2H), 3.5 (t, 2H), 1.9 (m, 2H), 1.75-1.6 (m, 6H).

reactant | Azepan-1-yl-(2-bromo-5-phenyl-thiophen-3-yl)-methanone | 0.30 mmol, 109 mg | N1(CCCCCC1)C(=O)C1=C(SC(=C1)C1=CC=CC=C1)Br | C17H18BrNOS
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Zinc cyanide | 0.30 mmol | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.15 mmol | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(Azepane-1-carbonyl)-5-phenyl-thiophene-2-carbonitrile | 16 mg | N1(CCCCCC1)C(=O)C1=C(SC(=C1)C1=CC=CC=C1)C#N | C18H18N2OS
